* C:\Users\msaya\Desktop\LTSpice\OV\OV.asc
C34 N006 N005 4.7n
C28 0 N001 0.1µ
C41 N008 0 0.1µ
C42 N003 N008 10p
R48 N006 0 100
R45 N002 N006 100
R49 N006 0 100
R46 N002 N007 100
R36 N001 Vp 2.2
R50 N008 Vn 2.2
R57 N002 0 470
R51 N004 N002 470
CR51 N004 N002 10p
D5.1 Vn N002 BAT54XV2T1G
D5.2 N002 Vp BAT54XV2T1G
V3 Vp 0 8
V4 Vn 0 -4
V5 Vd 0 5
XU1 N007 N002 N001 N008 N004 N003 AD8021
V7 N005 0 PULSE(0 20V 0.5u 0 0 0.5u 1u 4)
.model D D
.lib C:\Users\msaya\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 5us
.lib C:\Users\msaya\Documents\Github\Amplifier\libs\Bib.LIB
.lib C:\Users\msaya\Downloads\ad8021.txt
.backanno
.end
