* C:\Users\msaya\Desktop\LTSpice\Simulations\OVK\nicht_inv\nicht_inv.asc
V3 Vp 0 8
V4 Vn 0 -4
V5 Vd 0 5
V7 N025 0 SINE(0V 0.5V 1MEG 0.5u)
C23 N009 0 0.1µ
C29 N017 0 10µ
C27 N017 0 0.1µ
C37 0 N026 10µ
C39 0 N026 0.1µ
C24 N016 0 0.1µ
C43 0 N028 0.1µ
C30 N023 N022 0.1µ
C35 N027 N022 0.1µ
C26 N016 0 10µ
C40 0 N028 10µ
R38 N016 N023 10k
R53 N027 N028 10k
R55 N028 Vn 2R2
R52 N026 Vn 2R2
R33 N017 Vp 2R2
R27 N010 N009 470
R28 N011 N010 470
R31 N016 Vp 2R2
D6.1 N023 N022 BAT54XV2T1G
D6.2 N022 N027 BAT54XV2T1G
Q8 N016 N023 N011 0 BD139
Q10 N011 N027 N028 0 BD140
R29 N012 N011 39
R34 N012 N011 39
R40 N012 N011 39
R43 N012 N011 39
R1 N001 Vp 4k7
R14 N006 N005 120
R15 bias1 N006 4k7
R17 N015 N014 120
R18 bias2 N015 4k7
R13 N001 N002 120
C1 N001 0 0.1µ
D9.1 N002 N003 BAT54XV2T1G
D9.2 N003 N004 BAT54XV2T1G
D2.1 N004 N007 BAT54XV2T1G
D2.2 N007 N008 BAT54XV2T1G
D4.1 N008 N013 BAT54XV2T1G
D4.2 N013 0 BAT54XV2T1G
XU1 bias1_ideal N010 N017 N026 N022 AD8040
C12 N006 0 0.1µ
C14 N015 0 0.1µ
R§VR1.1 N002 N005 1k
R§VR1.2 N005 0 10k
R§VR2.1 N002 N014 2k
R§VR2.2 N014 0 8k
V1 N019 0 10
R2 N019 N020 6k
R3 N020 0 3k
M1 N024 N012 0 0 BSP89
R4 N018 N024 10
V2 N018 0 5
R14.1 N021 N020 120
R15.1 bias1_ideal N021 4k7
C12.1 N021 0 0.1µ
C32 bias1_ideal N025 0.1µ
.model D D
.lib C:\Users\msaya\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\msaya\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\msaya\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 5us
.lib C:\Users\msaya\Documents\Github\Amplifier\libs\Bib.LIB
.lib ADI.lib
.backanno
.end
