* C:\Users\msaya\Documents\Github\Amplifier\Push pull.asc
V1 Vsup 0 56
M§Q2 Out N001 Vsup Vsup IXTH10P50
M§Q5A Out N001 0 0 BSC340N08NS3
V2 N001 0 PULSE(0V 10V 0.5u 0 0 0.5u 1u 3)
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\msaya\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 4us
.lib C:\Users\msaya\Documents\Github\Amplifier\libs\Bib.LIB
.backanno
.end
